US09301526B2
To a stirred solution of e 2-chloro-6-(trifluoromethyl)nicotinic acid (Int-15) (40 g, 1.0 eq.) in THF (400 mL) was added BH3-THF (266.6 mL, 1.5 eq) at room temperature. The progress of the reaction was monitored by TLC. After 16 h the reaction mixture was concentrated under reduced pressure to remove THF. The resulting reaction mixture was diluted with 10% NaHCO3 (500 mL) and extracted with ethyl acetate (2×500 mL). The combined organic layers were washed with water (500 mL), brine (500 mL), dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure to get crude [2-chloro-6-(trifluoromethyl)pyridin-3-yl]methanol (Int-16) as light yellow liquid, 32 g (85.5%).

reactant | 2-chloro-6-(trifluoromethyl)nicotinic acid | 40 g, 1.0 eq. | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | BH3-THF | 266.6 mL, 1.5 eq | B.C1CCOC1
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
product | [2-chloro-6-(trifluoromethyl)pyridin-3-yl]methanol | ClC1=NC(=CC=C1CO)C(F)(F)F | C7H5ClF3NO
